### PR TITLE
feat(RingTheory): add nilpotence lemmas for zero sums

### LINKED ISSUE #10539: Follow up from #9697: generalize nilpotent results to semirings
Even though one direction of [Polynomial.isUnit_iff_coeff_isUnit_isNilpotent](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Polynomial/Nilpotent.html#Polynomial.isUnit_iff_coeff_isUnit_isNilpotent) doesn't generalize to CommSemirings, [Polynomial.coeff_isUnit_isNilpotent_of_isUnit](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Polynomial/Nilpotent.html#Polynomial.coeff_isUnit_isNilpotent_of_isUnit) does generalize and is sufficient to prove `not_isUnit_of_degree_pos` for reduced rings. The original proof doesn't quite work: it still suffices to show that the coefficients lie in every prime ideal, but you can't necessarily take the quotient by an ideal in a semiring and then argue in the resulting domain.

My proof is inspired by [this answer](https://math.stackexchange.com/a/392604/12932), which shows if f is a unit and not a constant then its highest coefficient is nilpotent, and by induction on degree we just need to show f.eraseLead is also a unit. This follow from the general fact that if f+g is a unit and g is nilpotent in a CommSemiring, then f is a unit, with inverse given by $u=\sum\nolimits_{n=0}^{m-1} g^n v^{n+1}$, where v is the inverse of f+g and m is such that $g^m=0$. You can verify fu=1 by adding $g^m v^m=0$ to the end of $\sum\nolimits_{n=0}^{m-1}fg^n v^{n+1}$ and keep cancelling $f+g$ with $v$ until only one term (1) is left.

Some fun exercises that seem to missing in mathlib include: if a+b=0 in a CommSemiring then a^2=b^2, and if moreover a^n=0, then b^n=0.

cc @XavierXarles since he's interested in semirings ...

_Originally posted by @alreadydone in https://github.com/leanprover-community/mathlib4/pull/9697#discussion_r1488731372_

### PR DESCRIPTION
**Pull request by sankalpsthakur**
In a commutative semiring, adds:
- `sq_eq_sq_of_add_eq_zero`: if `x + y = 0` then `x^2 = y^2`
- `IsNilpotent.of_add_eq_zero_left`: if `x + y = 0` and `y` is nilpotent, so is `x`
- `isNilpotent_iff_of_add_eq_zero`: under `x + y = 0`, `x` is nilpotent iff `y` is

Motivated by #10539.

### Validation
Built locally: `lake build Mathlib.RingTheory.Nilpotent.Basic` — succeeds.

Closes #10539

### AI/LLM disclosure
AI coding tools were used to help draft this change and PR description. I reviewed the complete change, understand the reasoning, and verified the build locally before submitting.

### CODE REVIEW

File: Mathlib/RingTheory/Nilpotent/Basic.lean [hunk 1]
```diff
@@ -220,6 +220,35 @@ section CommSemiring
...
+theorem sq_eq_sq_of_add_eq_zero (h : x + y = 0) : x ^ 2 = y ^ 2 := by
+  calc
+    x ^ 2 = x * x := pow_two x
+    _ = x * x + 0 := (add_zero _).symm
+    _ = x * x + (x + y) * y := by rw [h, zero_mul]
+    _ = (x * x + x * y) + y * y := by rw [add_mul, ← add_assoc]
+    _ = x * (x + y) + y * y := by rw [mul_add]
+    _ = 0 + y * y := by rw [h, mul_zero]
+    _ = y * y := zero_add _
+    _ = y ^ 2 := (pow_two y).symm
```
Comment (tb65536) [inline Mathlib/RingTheory/Nilpotent/Basic.lean]: I don't think it's worth spending 9 lines on this. What about starting with `transitivity x * x + x * y + y * y` and going from there? That way you keep the idea of proof apparent but avoid such a long `calc`.

File: Mathlib/RingTheory/Nilpotent/Basic.lean [hunk 2]
```diff
@@ -220,6 +221,29 @@ section CommSemiring
...
+then so is the left one. -/
+theorem IsNilpotent.of_add_eq_zero_left (hy : IsNilpotent y) (h : x + y = 0) :
+    IsNilpotent x := by
+  obtain ⟨n, hn⟩ := hy
+  refine ⟨2 * n, ?_⟩
+  calc
+    x ^ (2 * n) = (x ^ 2) ^ n := pow_mul x 2 n
+    _ = (y ^ 2) ^ n := by rw [sq_eq_sq_of_add_eq_zero h]
+    _ = (y ^ n) ^ 2 := by rw [← pow_mul, mul_comm, pow_mul]
+    _ = 0 := by simp [hn]
```
Comment (tb65536) [inline Mathlib/RingTheory/Nilpotent/Basic.lean:240]: Here you can probably use a plain `rw` chain as well.

**Comment by sankalpsthakur** [comment]
Thanks. Switched `of_add_eq_zero_left` to a plain `rw` chain. `sq_eq_sq_of_add_eq_zero` already starts from `transitivity x * x + x * y + y * y`.

**Comment by sankalpsthakur** [comment]
Shortened the zero-sum square proof along the lines you suggested (transitivity start + plain rw). Fork CI is still a bit noisy on my side.

File: Mathlib/RingTheory/Nilpotent/Basic.lean (hunk 1 above)
Comment (sankalpsthakur) [reply Mathlib/RingTheory/Nilpotent/Basic.lean]: Done. Starts from `transitivity x * x + x * y + y * y` now.

File: Mathlib/RingTheory/Nilpotent/Basic.lean (hunk 2 above)
Comment (sankalpsthakur) [reply Mathlib/RingTheory/Nilpotent/Basic.lean]: Switched to a plain `rw` chain.

File: Mathlib/RingTheory/Nilpotent/Basic.lean [hunk 3]
```diff
@@ -124,6 +124,7 @@ theorem zero_isRadical_iff [MonoidWithZero R] : IsRadical (0 : R) ↔ IsReduced
 theorem isReduced_iff_pow_one_lt [MonoidWithZero R] (k : ℕ) (hk : 1 < k) :
     IsReduced R ↔ ∀ x : R, x ^ k = 0 → x = 0 := by
   simp_rw [← zero_isRadical_iff, isRadical_iff_pow_one_lt k hk, zero_dvd_iff]
+  exact forall_comm
```
Comment (tb65536) [inline Mathlib/RingTheory/Nilpotent/Basic.lean]: I'm surprised this is needed if it worked before?

Comment (sankalpsthakur) [reply Mathlib/RingTheory/Nilpotent/Basic.lean]: You're right. That line was leftover from the rewrite. Dropped it in dc07d8a; simp_rw already closed the goal.

**Comment by sankalpsthakur** [comment]
-awaiting-author

File: Mathlib/RingTheory/Nilpotent/Basic.lean [hunk 4]
```diff
@@ -220,6 +220,25 @@ section CommSemiring
 
 variable [CommSemiring R] {x y : R}
 
+/-- In a commutative semiring, two elements whose sum is zero have equal squares. -/
```
Comment (tb65536) [inline Mathlib/RingTheory/Nilpotent/Basic.lean]: Are you sure these require commutativity?

**Comment by sankalpsthakur** [comment]
checked the proof terms: sq_eq_sq_of_add_eq_zero only uses one-sided distributivity (add_mul/mul_add) and never swaps x*y for y*x, and the only mul_comm in of_add_eq_zero_left is on the nat exponent (2*n = n*2), not ring elements. neither actually needs CommSemiring. happy to move both up into a Semiring section if you'd rather have them there.

**Comment by sankalpsthakur** [comment]
Moved the zero-sum lemmas to Semiring; the proofs only use add_mul/mul_add.

**Comment by sankalpsthakur** [comment]
-awaiting-author

File: Mathlib/RingTheory/Nilpotent/Basic.lean [hunk 5]
```diff
@@ -216,6 +216,31 @@ end Ring
...
 
+section Semiring
+
+variable [Semiring R] {x y : R}
+
+/-- In a semiring, two elements whose sum is zero have equal squares. -/
+theorem sq_eq_sq_of_add_eq_zero (h : x + y = 0) : x ^ 2 = y ^ 2 := by
+  transitivity x * x + x * y + y * y
+  · rw [pow_two, add_assoc, ← add_mul, h, zero_mul, add_zero]
+  · rw [← mul_add, h, mul_zero, zero_add, pow_two]
```
Comment (tb65536) [inline Mathlib/RingTheory/Nilpotent/Basic.lean]: `simpa [h] using show x ^ 2 + (x + y) * y = x * (x + y) + y ^ 2 by grind`

File: Mathlib/RingTheory/Nilpotent/Basic.lean [hunk 6]
```diff
@@ -216,6 +216,31 @@ end Ring
...
+
+/-- If two elements of a semiring sum to zero and the right one is nilpotent,
+then so is the left one. -/
+theorem IsNilpotent.of_add_eq_zero_left (hy : IsNilpotent y) (h : x + y = 0) :
+    IsNilpotent x := by
+  obtain ⟨n, hn⟩ := hy
+  refine ⟨2 * n, ?_⟩
+  rw [pow_mul, sq_eq_sq_of_add_eq_zero h, ← pow_mul, Nat.mul_comm, pow_mul, hn, pow_two, mul_zero]
```
Comment (tb65536) [inline Mathlib/RingTheory/Nilpotent/Basic.lean]:
```
  use 2 * n
  rw [pow_mul, sq_eq_sq_of_add_eq_zero h, pow_right_comm, hn, pow_two, mul_zero]
```

File: Mathlib/RingTheory/Nilpotent/Basic.lean [hunk 7]
```diff
@@ -216,6 +216,31 @@ end Ring
...
+
+/-- In a semiring, two elements whose sum is zero have equal squares. -/
+theorem sq_eq_sq_of_add_eq_zero (h : x + y = 0) : x ^ 2 = y ^ 2 := by
+  transitivity x * x + x * y + y * y
+  · rw [pow_two, add_assoc, ← add_mul, h, zero_mul, add_zero]
+  · rw [← mul_add, h, mul_zero, zero_add, pow_two]
+
+/-- If two elements of a semiring sum to zero and the right one is nilpotent,
+then so is the left one. -/
+theorem IsNilpotent.of_add_eq_zero_left (hy : IsNilpotent y) (h : x + y = 0) :
```
Comment (tb65536) [inline Mathlib/RingTheory/Nilpotent/Basic.lean]: If you swap the argument order here:
```
theorem IsNilpotent.of_add_eq_zero_left (h : x + y = 0) (hy : IsNilpotent y) :
```
then the final proof can become
```
⟨.of_add_eq_zero_left (add_eq_zero_comm.mp h), .of_add_eq_zero_left h⟩
```

**Comment by sankalpsthakur** [comment]
Took the three suggestions in 8e5a088: grind/simpa for the square lemma, the shorter rw with pow_right_comm, and swapped the hypotheses so the iff is a one-liner.

File: Mathlib/RingTheory/Nilpotent/Basic.lean [hunk 8]
```diff
@@ -216,6 +216,28 @@ end Ring
...
+variable [Semiring R] {x y : R}
+
+/-- In a semiring, two elements whose sum is zero have equal squares. -/
+theorem sq_eq_sq_of_add_eq_zero (h : x + y = 0) : x ^ 2 = y ^ 2 := by
+  simpa [h] using show x ^ 2 + (x + y) * y = x * (x + y) + y ^ 2 by grind
+
+/-- If two elements of a semiring sum to zero and the right one is nilpotent,
+then so is the left one. -/
+theorem IsNilpotent.of_add_eq_zero_left (h : x + y = 0) (hy : IsNilpotent y) :
+    IsNilpotent x := by
```
Comment (tb65536) [inline Mathlib/RingTheory/Nilpotent/Basic.lean:252]: Actually, is it possible to prove that if `x + y = 0` and `y ^ n = 0`, then `x ^ n = 0`?

Comment (sankalpsthakur) [reply Mathlib/RingTheory/Nilpotent/Basic.lean:252]: Yes. I split `n` by parity: for `n = 2*k`, the square equality gives the result directly; for `n = 2*k+1`, the shared square factor gives `x^n + y^n = (y^2)^k * (x + y) = 0`, so `y^n = 0` implies `x^n = 0`. Commit 9056614e7a adds `pow_eq_zero_of_add_eq_zero_left` and uses the same witness in the nilpotence theorem. `lake env lean Mathlib/RingTheory/Nilpotent/Basic.lean` passes.

File: Mathlib/RingTheory/Nilpotent/Basic.lean [hunk 9]
```diff
@@ -216,6 +216,42 @@ end Ring
...
+  obtain ⟨k, rfl | rfl⟩ := Nat.even_or_odd' n
+  · simpa [pow_mul, sq_eq_sq_of_add_eq_zero h] using hy
+  · have hpow : x ^ (2 * k + 1) + y ^ (2 * k + 1) = 0 := by
+      calc
+        x ^ (2 * k + 1) + y ^ (2 * k + 1) =
+            (x ^ 2) ^ k * x + (y ^ 2) ^ k * y := by rw [pow_add, pow_add, pow_mul, pow_mul,
+              pow_one, pow_one]
+        _ = (y ^ 2) ^ k * x + (y ^ 2) ^ k * y := by rw [sq_eq_sq_of_add_eq_zero h]
+        _ = 0 := by rw [← mul_add, h, mul_zero]
+    simpa [hy] using hpow
```
Comment (tb65536) [inline Mathlib/RingTheory/Nilpotent/Basic.lean]:
```suggestion
theorem pow_even_eq_pow_even_of_add_eq_zero
    (h : x + y = 0) (n : ℕ) : x ^ (2 * n) = y ^ (2 * n) := by
  simp [pow_mul, sq_eq_sq_of_add_eq_zero h]

theorem pow_odd_add_pow_odd_eq_zero_of_add_eq_zero
    (h : x + y = 0) (n : ℕ) : x ^ (2 * n + 1) + y ^ (2 * n + 1) = 0 := by
  simp_rw [pow_succ, pow_mul, sq_eq_sq_of_add_eq_zero h, ← mul_add, h, mul_zero]

theorem pow_eq_zero_of_add_eq_zero_left {n : ℕ} (h : x + y = 0) (hy : y ^ n = 0) :
    x ^ n = 0 := by
  obtain ⟨k, rfl | rfl⟩ := Nat.even_or_odd' n
  · rwa [pow_even_eq_pow_even_of_add_eq_zero h k]
  · rwa [eq_zero_iff_eq_zero_of_add_eq_zero (pow_odd_add_pow_odd_eq_zero_of_add_eq_zero h k)]
```

File: Mathlib/RingTheory/Nilpotent/Basic.lean [hunk 10]
```diff
@@ -216,6 +216,42 @@ end Ring
...
+
+/-- If two elements of a semiring sum to zero and the right one is nilpotent,
+then so is the left one. -/
+theorem IsNilpotent.of_add_eq_zero_left (h : x + y = 0) (hy : IsNilpotent y) :
```
Comment (tb65536) [inline Mathlib/RingTheory/Nilpotent/Basic.lean:251]: Can you also add `right` versions of these two theorems?

File: Mathlib/RingTheory/Nilpotent/Basic.lean (hunk 9 above)
Comment (sankalpsthakur) [reply Mathlib/RingTheory/Nilpotent/Basic.lean]: Applied in 0d6413ab69: extracted `pow_even_eq_pow_even_of_add_eq_zero` and `pow_odd_add_pow_odd_eq_zero_of_add_eq_zero`, and `pow_eq_zero_of_add_eq_zero_left` now uses them. `lake env lean Mathlib/RingTheory/Nilpotent/Basic.lean` passes.

File: Mathlib/RingTheory/Nilpotent/Basic.lean (hunk 10 above)
Comment (sankalpsthakur) [reply Mathlib/RingTheory/Nilpotent/Basic.lean:251]: Added `_right` versions of both extracted lemmas, plus `pow_eq_zero_of_add_eq_zero_right` and `IsNilpotent.of_add_eq_zero_right`. The iff is now `⟨.of_add_eq_zero_right h, .of_add_eq_zero_left h⟩`.

File: Mathlib/RingTheory/Nilpotent/Basic.lean [hunk 11]
```diff
@@ -216,6 +216,64 @@ end Ring
...
+  simp_rw [pow_succ, pow_mul, sq_eq_sq_of_add_eq_zero h, ← mul_add, h, mul_zero]
+
+theorem pow_even_eq_pow_even_of_add_eq_zero_right
+    (h : x + y = 0) (n : ℕ) : y ^ (2 * n) = x ^ (2 * n) :=
+  (pow_even_eq_pow_even_of_add_eq_zero h n).symm
+
+theorem pow_odd_add_pow_odd_eq_zero_of_add_eq_zero_right
+    (h : x + y = 0) (n : ℕ) : y ^ (2 * n + 1) + x ^ (2 * n + 1) = 0 := by
+  rw [add_comm]
+  exact pow_odd_add_pow_odd_eq_zero_of_add_eq_zero h n
```
Comment (tb65536) [inline Mathlib/RingTheory/Nilpotent/Basic.lean]: No, I don't think these are necessary.

Comment (sankalpsthakur) [reply Mathlib/RingTheory/Nilpotent/Basic.lean]: Dropped the even/odd `_right` lemmas. Kept `of_add_eq_zero_right` / `pow_eq_zero_right`.

**Review by tb65536 — APPROVED** [review]
This is looking reasonable to me, but someone else should look it over given my involvement.
